US07932246B2
N-Hydroxy 2-{6-[(naphthalene-2-sulfonyl)-(2-pyrrolidin-1-yl-ethyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide—Example 46
To N-(tetrahydro-2H-pyran-2-yloxy) 2-{6-[(naphthalene-2-sulfonyl)-(2-pyrrolidin-1-ylethyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide (0.234 g, 0.38 mmol) was added TFA:DCM:MeOH (6 ml, 1:1:1 mixture). The mixture was stirred for 3 h at r.t. and then concentrated in vacuo. The product was purified by reverse phase HPLC to yield the title compound (60 mg, 30%). LCMS Purity >98%, m/z 523.25 [M+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 1.55-1.68 (4H, m), 1.78 (1H, m), 2.25-2.34 (2H, m), 2.35-2.45 (4H, m), 2.55-2.65 (2H, m), 3.25-3.42 (5H, m), 3.54-3.63 (2H, m), 3.73-3.85 (2H, m), 7.65-7.77 (2H, m), 7.86 (1H, d, J=8.5 Hz), 8.06 (1H, d, J=7.3 Hz), 8.17 (1H, d, J=7.3 Hz), 8.24 (1H, d, J=7.3 Hz), 8.55 (1H, s), 8.61 (2H, s), 9.00 (1H, br s), 11.05 (1H, br s).

reactant | N-(tetrahydro-2H-pyran-2-yloxy) 2-{6-[(naphthalene-2-sulfonyl)-(2-pyrrolidin-1-ylethyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | 0.38 mmol, 0.234 g | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CCN1CCCC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C31H38N6O5S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 6 ml | CO | CH4O
product | N-Hydroxy 2-{6-[(naphthalene-2-sulfonyl)-(2-pyrrolidin-1-yl-ethyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | 60 mg, 30% | ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CCN1CCCC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C26H30N6O4S
